### PR TITLE
[Merged by Bors] - feat(AlgebraicGeometry/EllipticCurve/DivisionPolynomial/Basic): define division polynomials

### PR DESCRIPTION
**Pull request by Multramate**
---

- [x] depends on: #10814 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/AlgebraicGeometry/EllipticCurve/DivisionPolynomial.lean [hunk 1]
```diff
@@ -0,0 +1,308 @@
...
+@[simp]
+lemma divisionPolynomialX_neg (n : ℤ) : W.divisionPolynomialX (-n) = W.divisionPolynomialX n := by
+  rw [divisionPolynomialX, divisionPolynomialZSq_neg, neg_add_eq_sub, ← neg_sub n,
+    divisionPolynomial_neg, ← neg_add', divisionPolynomial_neg, neg_mul_neg,
+    mul_comm <| W.divisionPolynomial _, Int.natAbs_neg, divisionPolynomialX]
+
+/-- The bivariate $n$-division polynomials $\psi_n$ for $n \in \mathbb{Z}$. -/
+@[pp_dot]
+noncomputable def divisionPolynomialZ (n : ℤ) : R[X][Y] :=
+  C (W.divisionPolynomial n) * if Even n.natAbs then Y - W.toAffine.negPolynomial else 1
```
[the remark this answers is not in the document]
Comment (Multramate) [reply Mathlib/AlgebraicGeometry/EllipticCurve/DivisionPolynomial.lean:275]: Sorry, I completely missed this.

**Comment by Multramate** [comment]
Since we need both univariate and bivariate division polynomials, here is my suggestion for the naming:
- `φ`, `ω`, and `ψ` will be the bivariate versions defined in the usual sense using `normEDS`
- `Ψ₂Sq`, `Ψ'`, `ΨSq`, and `Φ` will be the univariate versions defined ad-hoc using `preNormEDS`
- `Ψ` will be bivariate, but defined using the univariate `Ψ'`, which will be congruent to `ψ` in the coordinate ring
I'll make their definitions as clear as possible in the module docstring.

File: Mathlib/AlgebraicGeometry/EllipticCurve/DivisionPolynomial.lean [hunk 2]
```diff
@@ -0,0 +1,423 @@
...
+
+@[simp]
+lemma ΨSq_neg (n : ℤ) : W.ΨSq (-n) = W.ΨSq n := by
+  rw [WeierstrassCurve.ΨSq, Ψ'_neg, neg_sq, Int.natAbs_neg, WeierstrassCurve.ΨSq]
+
+/-! ### The bivariate polynomials $\Psi_n$ -/
+
+/-- The bivariate polynomials $\Psi_n$ congruent to the $n$-division polynomials $\psi_n$. -/
+protected noncomputable def Ψ (n : ℤ) : R[X][Y] :=
+  C (W.Ψ' n) * if Even n.natAbs then W.ψ₂ else 1
```
Comment (alreadydone) [inline Mathlib/AlgebraicGeometry/EllipticCurve/DivisionPolynomial.lean:261]:
```suggestion
  C (W.Ψ' n) * if Even n then W.ψ₂ else 1
```

File: Mathlib/AlgebraicGeometry/EllipticCurve/DivisionPolynomial.lean [hunk 3]
```diff
@@ -0,0 +1,423 @@
...
+
+@[simp]
+lemma Ψ_neg (n : ℤ) : W.Ψ (-n) = -W.Ψ n := by
+  rw [WeierstrassCurve.Ψ, Ψ'_neg, C_neg, neg_mul (α := R[X][Y]), Int.natAbs_neg, WeierstrassCurve.Ψ]
+
+/-! ### The univariate polynomials $\Phi_n$ -/
+
+/-- The univariate polynomials $\Phi_n$ congruent to $\phi_n$. -/
+protected noncomputable def Φ (n : ℤ) : R[X] :=
+  X * W.ΨSq n - W.Ψ' (n + 1) * W.Ψ' (n - 1) * if Even n.natAbs then 1 else W.Ψ₂Sq
```
Comment (alreadydone) [inline Mathlib/AlgebraicGeometry/EllipticCurve/DivisionPolynomial.lean:310]:
```suggestion
  X * W.ΨSq n - W.Ψ' (n + 1) * W.Ψ' (n - 1) * if Even n then 1 else W.Ψ₂Sq
```

**Review by alreadydone — APPROVED** [review]
Mostly LGTM, just a few comments

File: Mathlib/AlgebraicGeometry/EllipticCurve/DivisionPolynomial.lean [hunk 4]
```diff
@@ -0,0 +1,423 @@
...
+ * $\psi_0 := 0$,
+ * $\psi_1 := 1$,
+ * $\psi_2 := 2Y + a_1X + a_3$,
+ * $\psi_3 := 3X^4 + b_2X^3 + 3b_4X ^ 2 + 3b_6X + b_8$, and
+ * $\psi_4 := \psi_2 \cdot
+    (2X^6 + b_2X^5 + 5b_4X^4 + 10b_6X^3 + 10b_8X^2 + (b_2b_8 - b_4b_6)X + (b_4b_8 - b_6^2))$.
+
+Furthermore, define the associated sequences $\phi_n, \omega_n \in R[X, Y]$ by
+ * $\phi_n := X\psi_n^2 - \psi_{n + 1}\psi_{n - 1}$, and
+ * $\omega_n := \tfrac{1}{2\psi_n} \cdot (\psi_{2n} - \psi_n^2(a_1\phi_n + a_3\psi_n^2)$.
```
[the remark this answers is not in the document]
Comment (Multramate) [reply Mathlib/AlgebraicGeometry/EllipticCurve/DivisionPolynomial.lean:30]: I'll fix the definition and add a short note explaining the issue with division by 2. I think it's a great idea to have multiple files since they're getting quite long. I'll propagate this to my downstream PRs.

I think we don't want to define $$\omega$$ in this PR (presumably that's what you mean by including #13057 since it's now broken to a few smaller PRs), because that is massive on its own.

[the remark this answers is not in the document]
Comment (Multramate) [reply Mathlib/AlgebraicGeometry/EllipticCurve/DivisionPolynomial.lean]: I added a very short description of how to define $\omega$ mathematically at the module docstrings. The actual implementation details under `Implementation Notes` we can add when we actually PR the definition of $\omega$.

**Comment by Multramate** [comment]
I only moved the files into a subdirectory in [latest commit](https://github.com/leanprover-community/mathlib4/pull/6703/commits/7190e5e9db9dfab6883a6c4537583aec21be8441), while the changes reflecting the suggestions are in the [previous commit](https://github.com/leanprover-community/mathlib4/pull/6703/commits/fa649869b30eea69f1734b953eaf92fe64a1aaee). Note that there seems to be a weird bug with `neg` lemmas not recognising the negation in `R[X][Y]` in lines 429 and 430 without supplying the type.

File: Mathlib/AlgebraicGeometry/EllipticCurve/DivisionPolynomial/Basic.lean [hunk 5]
```diff
@@ -0,0 +1,432 @@
...
+ * $\omega_n := \tfrac{1}{2} \cdot (\psi_{2n} / \psi_n - \psi_n(a_1\phi_n + a_3\psi_n^2))$.
+
+Note that $\omega_n$ is always well-defined as a polynomial. As a start, it can be shown by
+induction that $\psi_n$ always divides $\psi_{2n}$, so that $\psi_{2n} / \psi_n$ is always
+well-defined as a polynomial, while division by 2 is well-defined when $R$ has characteristic
+different from 2. In general, it can be shown that 2 always divides the polynomial
+$\psi_{2n} / \psi_n - \psi_n(a_1\phi_n + a_3\psi_n^2)$ in the characteristic zero universal ring
+$\mathcal{R}[X, Y] := \mathbb{Z}[a_i][X, Y] / \langle W(a_i, X, Y)\rangle$ associated to $W$, where
+$W(a_i, X, Y)$ is the associated Weierstrass equation. Then $\omega_n$ can be equivalently defined
+as its image under the associated universal morphism $\mathcal{R}[X, Y] \to R[X, Y]$.
```
Comment (alreadydone) [inline Mathlib/AlgebraicGeometry/EllipticCurve/DivisionPolynomial/Basic.lean:38]: My suggestion:
```suggestion
$\psi_{2n} / \psi_n - \psi_n(a_1\phi_n + a_3\psi_n^2)$ in the characteristic zero universal
polynomial ring $\mathcal{R}[X, Y] := \mathbb{Z}[a_i][X, Y]$,
where $a_i$ are indeterminates. Then $\omega_n$ can be equivalently defined
as its image under the associated universal morphism $\mathcal{R}[X, Y] \to R[X, Y]$.
```
It's not necessary to quotient by the Weierstrass polynomial here. I'll modify the end of this paragraph in my PR to say that I actually take a more direct approach to define $\omega_n$.

File: Mathlib/AlgebraicGeometry/EllipticCurve/DivisionPolynomial/Basic.lean [hunk 6]
```diff
@@ -0,0 +1,432 @@
...
+
+/-! ### The univariate polynomials $\tilde{\Psi}_n$ for $n \in \mathbb{N}$ -/
+
+/-- The $3$-division polynomial $\psi_3 = \Psi_3$. -/
+protected noncomputable def Ψ₃ : R[X] :=
+  3 * X ^ 4 + C W.b₂ * X ^ 3 + 3 * C W.b₄ * X ^ 2 + 3 * C W.b₆ * X + C W.b₈
+
+/-- The univariate polynomial $\tilde{\Psi}_4$, which is auxiliary to the $4$-division polynomial
+$\psi_4 = \Psi_4 = \tilde{\Psi}_4\psi_2$. -/
+protected noncomputable def Ψ₄' : R[X] :=
```
Comment (alreadydone) [inline Mathlib/AlgebraicGeometry/EllipticCurve/DivisionPolynomial/Basic.lean:139]: Do you agree with my suggestion?
```suggestion
protected noncomputable def preΨ₄ : R[X] :=
```

**Review by alreadydone — COMMENTED** [review]
I think it would be nice to include the proofs that the uppercase and lowercase $\phi$ and $\psi$ are congruent modulo `W.polynomial`. I think the useful statement is that there image under `CoordinateRing.mk` are equal. (Since `evalEval` at a point satisfying `Equation` factors through `CoordinateRing.mk`, the `evalEval` of these congruent polynomials are also equal.)

**Comment by Multramate** [comment]
Don't we need the `map` lemmas for that? I think I started #13399 pretty much immediately after I realised this. I suggest keeping the PR as it is and continue there.

File: Mathlib/AlgebraicGeometry/EllipticCurve/DivisionPolynomial/Basic.lean (hunk 6 above)
Comment (Multramate) [reply Mathlib/AlgebraicGeometry/EllipticCurve/DivisionPolynomial/Basic.lean:139]: Whoops I missed this. I added it on the train but ran out of internet.

File: Mathlib/AlgebraicGeometry/EllipticCurve/DivisionPolynomial/Basic.lean [hunk 7]
```diff
@@ -0,0 +1,427 @@
...
+  preNormEDS_even ..
+
+@[simp]
+lemma preΨ_neg (n : ℤ) : W.preΨ (-n) = -W.preΨ n :=
+  preNormEDS_neg ..
+
+/-! ### The univariate polynomials $\Psi_n^{[2]}$ -/
+
+/-- The univariate polynomials $\Psi_n^{[2]}$ congruent to $\psi_n^2$. -/
+protected noncomputable def ΨSq (n : ℤ) : R[X] :=
```
Comment (alreadydone) [inline Mathlib/AlgebraicGeometry/EllipticCurve/DivisionPolynomial/Basic.lean:220]: I think only names of a single letter need to be protected. Maybe also those with one subscript, like `Ψ₃` and `ψ₂`. I don't see why `ΨSq` needs to be protected since conflicts seem unlikely.

File: Mathlib/AlgebraicGeometry/EllipticCurve/DivisionPolynomial/Basic.lean [hunk 8]
```diff
@@ -0,0 +1,427 @@
...
+/-- The $2$-division polynomial $\psi_2 = \Psi_2$. -/
+protected noncomputable def ψ₂ : R[X][Y] :=
+  W.toAffine.polynomialY
+
+/-- The univariate polynomial $\Psi_2^{[2]}$ congruent to $\psi_2^2$. -/
+protected noncomputable def Ψ₂Sq : R[X] :=
+  C 4 * X ^ 3 + C W.b₂ * X ^ 2 + C (2 * W.b₄) * X + C W.b₆
+
+lemma C_Ψ₂Sq_eq : C W.Ψ₂Sq = W.ψ₂ ^ 2 - 4 * W.toAffine.polynomial := by
+  rw [WeierstrassCurve.Ψ₂Sq, WeierstrassCurve.ψ₂, b₂, b₄, b₆, Affine.polynomialY, Affine.polynomial]
```
Comment (alreadydone) [inline Mathlib/AlgebraicGeometry/EllipticCurve/DivisionPolynomial/Basic.lean:117]: Even if you protect these, you can still `open WeierstrassCurve (Ψ₂Sq ψ₂)` etc. to get rid of the `WeierstrassCurve.`.

File: Mathlib/AlgebraicGeometry/EllipticCurve/DivisionPolynomial/Basic.lean [hunk 9]
```diff
@@ -0,0 +1,427 @@
...
+
+lemma Ψ_even (m : ℕ) : W.Ψ (2 * (m + 3)) * W.ψ₂ =
+    W.Ψ (m + 2) ^ 2 * W.Ψ (m + 3) * W.Ψ (m + 5) - W.Ψ (m + 1) * W.Ψ (m + 3) * W.Ψ (m + 4) ^ 2 := by
+  repeat erw [Ψ_ofNat]
+  simp_rw [preΨ'_even, if_pos <| even_two_mul _, Nat.even_add_one, ite_not]
+  split_ifs <;> C_simp <;> ring1
+
+@[simp]
+lemma Ψ_neg (n : ℤ) : W.Ψ (-n) = -W.Ψ n := by
+  simp only [WeierstrassCurve.Ψ, preΨ_neg, C_neg, neg_mul (α := R[X][Y]), even_neg]
```
Comment (alreadydone) [inline Mathlib/AlgebraicGeometry/EllipticCurve/DivisionPolynomial/Basic.lean:308]: I've observed a similar issue e.g. [here](https://github.com/leanprover-community/mathlib4/blob/bd3b187a0c6d5cf7fadef7ff51f86faa16a639c2/Mathlib/AlgebraicGeometry/EllipticCurve/DivisionPolynomial.lean#L572). I think maybe some previous step only requires a semiring, and afterwards Lean forgets it's actually a ring, maybe due to some unification/instance caching issues.

**Review by alreadydone — APPROVED** [review]

**Review by alreadydone — APPROVED** [review]
Thanks 🎉 
maintainer merge

**Comment by riccardobrasca** [comment]
This is great, thanks!

bors merge

File: Mathlib/AlgebraicGeometry/EllipticCurve/DivisionPolynomial/Basic.lean [hunk 10]
```diff
@@ -0,0 +1,463 @@
...
+
+The corresponding normalised elliptic divisibility sequence $\Psi_n \in R[X, Y]$ is then given by
+ * $\Psi_n := \tilde{\Psi}_n\psi_2$ if $n$ is even, and
+ * $\Psi_n := \tilde{\Psi}_n$ if $n$ is odd.
+
+Furthermore, define the associated sequences $\Psi_n^{[2]}, \Phi_n \in R[X]$ by
+ * $\Psi_n^{[2]} := \tilde{\Psi}_n^2\Psi_2^{[2]}$ if $n$ is even,
+ * $\Psi_n^{[2]} := \tilde{\Psi}_n^2$ if $n$ is odd,
+ * $\Phi_n := X\Psi_n^{[2]} - \tilde{\Psi}_{n + 1}\tilde{\Psi}_{n - 1}$ if $n$ is even, and
+ * $\Phi_n := X\Psi_n^{[2]} - \tilde{\Psi}_{n + 1}\tilde{\Psi}_{n - 1}\Psi_2^{[2]}$ if $n$ is odd.
```
Comment (alreadydone) [inline Mathlib/AlgebraicGeometry/EllipticCurve/DivisionPolynomial/Basic.lean:58]: These two lines are broken in the [documentation](https://leanprover-community.github.io/mathlib4_docs/Mathlib/AlgebraicGeometry/EllipticCurve/DivisionPolynomial/Basic.html) and I'm not sure why.

File: Mathlib/AlgebraicGeometry/EllipticCurve/DivisionPolynomial/Basic.lean [hunk 11]
```diff
@@ -0,0 +1,463 @@
...
+Now, in the coordinate ring $R[W]$, note that $\psi_2^2$ is congruent to the polynomial
+$\Psi_2^{[2]} := 4X^3 + b_2X^2 + 2b_4X + b_6 \in R[X]$. As such, in $R[W]$, the recurrences
+associated to a normalised elliptic divisibility sequence show that $\psi_n / \psi_2$ are congruent
+to certain polynomials in $R[X]$. In particular, define $\tilde{\Psi}_n \in R[X]$ as the auxiliary
+sequence for a normalised elliptic divisibility sequence with initial values
+ * $\tilde{\Psi}_0 := 0$,
+ * $\tilde{\Psi}_1 := 1$,
+ * $\tilde{\Psi}_2 := 1$,
+ * $\tilde{\Psi}_3 := \psi_3$, and
+ * $\tilde{\Psi}_4 := \psi_4 / \psi_2$.
```
Comment (alreadydone) [inline Mathlib/AlgebraicGeometry/EllipticCurve/DivisionPolynomial/Basic.lean:48]: I forgot to mention this, but here (and in the docstrings for preNormEDS) can you signify that the sequence also depends on an additional parameter (which is taken to be $(\Psi_2^{[2]})^2$ here, and taken to be $\psi_2^4$ for normEDS)?

File: Mathlib/AlgebraicGeometry/EllipticCurve/DivisionPolynomial/Basic.lean (hunk 10 above)
Comment (Multramate) [reply Mathlib/AlgebraicGeometry/EllipticCurve/DivisionPolynomial/Basic.lean:58]: Seems like it's an issue with `_` being both part of markdown and LaTeX, see e.g. [here](https://leanprover.zulipchat.com/#narrow/stream/113488-general/topic/Contribution.20to.20doc-gen4.3F/near/443257844).
